US08877970B2
4-(3-(2-iodophenyl)thioureido)benzenesulfonamide (MIP-1148)
The subject compound was prepared utilizing the procedure described above from 4-isothiocyanatobenzenesulfonamide and 2-iodoaniline. 1H NMR (400 MHz, DMSO-d6) δ 10.16 (s, 1H), 9.60 (s, 1H), 7.90-7.81 (m, 8H), 7.76 (bs, 2H); (M+H)+ (434).

reactant | 4-isothiocyanatobenzenesulfonamide | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)N | C7H6N2O2S2
reactant | 2-iodoaniline | IC1=C(N)C=CC=C1 | C6H6IN
product | 4-(3-(2-iodophenyl)thioureido)benzenesulfonamide | IC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)S(=O)(=O)N)=S | C13H12IN3O2S2
